US07825253B2
N5-(1H-Benzoimidazol-5-ylmethyl)-N2-(2,2-dimethyl-2,3-dihydro-benzofuran-7-yl)-quinoline-2,5-diamine
The title compound, MS: m/e=436.1 (M+H+), was prepared from 5-nitro-2-chloroquinoline, 7-amino-2,3-dihydro-2,2-dimethylbenzofuran (CAS 68298-46-4) and 1H-benzimidazole-5-carbaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 7-amino-2,3-dihydro-2,2-dimethylbenzofuran | NC1=CC=CC=2CC(OC21)(C)C | C10H13NO
reactant | 1H-benzimidazole-5-carbaldehyde | N1C=NC2=C1C=CC(=C2)C=O | C8H6N2O
product | N5-(1H-Benzoimidazol-5-ylmethyl)-N2-(2,2-dimethyl-2,3-dihydro-benzofuran-7-yl)-quinoline-2,5-diamine | N1C=NC2=C1C=CC(=C2)CNC=2C=1C=CC(=NC1C=CC2)NC2=CC=CC=1CC(OC12)(C)C | C27H25N5O
